US08022062B2
To a stirred solution of 3-tert-butoxycarbonyl-7-chloro-6-(4-hydroxymethyl-benzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (133 mg, 0.306 mmol) in anhydrous DMF (2 mL) under nitrogen, add sodium hydride (60% dispersion, 13-15 mg, 0.375 mmol) at ambient temperature and continue sting for 30 min. Add methyl iodide (80 □L, 1.28 mmol). After 15 min, dilute with water, extract three times with EtOAc, dry over anhydrous MgSO4 and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (15:1) to give 3-tert-butoxycarbonyl-7-chloro-6-(4-methoxymethyl-benzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a clear oil, which crystallizes on standing to a white solid (87 mg, 63%), along with recovered starting material (22 mg, 17%). Use a method similar to the General Procedure 1-4 to give the title compound as a white solid. MS (ES+) m/z: 348 (M+H−Boc)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-(4-hydroxymethyl-benzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.306 mmol, 133 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC2=CC=C(C=C2)CO | C23H28ClNO3S
reactant | sodium hydride | 0.375 mmol, 13-15 mg | [H-].[Na+]
reactant | methyl iodide | 1.28 mmol | CI | CH3I
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-tert-butoxycarbonyl-7-chloro-6-(4-methoxymethyl-benzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC2=CC=C(C=C2)COC | C24H30ClNO3S
